US06011044
Preparation of 1-(2-methylphenyl)-4-[(3-hydroxypropyl)amino]-6-β,β,β-trifluoroethoxypyrrolo[3,2-c]quinoline
1-(2-Methylphenyl)-4-chloro-6-β,β,β-trifluoroethoxypyrrolo[3,2-c]quinoline(600 mg, 1.5 mmol), prepared by the procedures of Step 1 and Step 2 in the Example 34, was dissolved in 3-amino-1-propanol(10 ml) in the pressure tube, and the resultant was refluxed at 180° C. for 3 hours. After removing the excess 3-amino-1-propanol by distillation under reduced pressure, the residue was diluted in dichloromethane(20 ml), and washed with water(15 ml) for 3 times. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography to obtain 522 mg of desired compound as solid in 81% of yield.

reactant | 1-(2-Methylphenyl)-4-chloro-6-β,β,β-trifluoroethoxypyrrolo[3,2-c]quinoline | 1.5 mmol, 600 mg | CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)Cl | C20H14ClF3N2O
reactant | 3-amino-1-propanol | 10 ml | NCCCO | C3H9NO
product | 1-(2-methylphenyl)-4-[(3-hydroxypropyl)amino]-6-β,β,β-trifluoroethoxypyrrolo[3,2-c]quinoline | 522 mg | CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)NCCCO | C23H22F3N3O2
